US07842813B2
Preparation of (2-bromo-acetyl)-carbamic acid tert-butyl ester (1-3b)
2-Bromoacetamide (11.1 g, 80 mmol) was suspended in ethylene dichloride (130 ml) in a 250-ml round-bottomed flask fitted with a magnetic stirrer, a thermometer, and a condenser with nitrogen flow. Oxalyl chloride (9.76 ml, 112 mmol, 1.4 eq) was added slowly to the solution at room temperature with stirring. The mixture was stirred at room temperature for 30 min, and then heated to reflux for 5 hours (the suspension became a clear solution). The condenser was replaced with a distillation system, and about 35-40 ml solvent was removed with stirring. The heating mantle was withdrawn and the reaction mixture was cooled with an ice bath to 0-5° C. A solution of tert-butanol (10.7 ml, 112 mmol, 1.4 eq) in 10 ml dichloromethane was added slowly to maintain temperature below 15° C. and the mixture was stirred at 0-15° C. for 15-30 min. The reaction mixture was diluted with dichloromethane (220 ml) and washed sequentially with aqueous saturated sodium bicarbonate solution (50 ml) and water (3×80 ml) (The amount of unreacted 2-bromoacetamide in organic layer should be controlled to <1% by 1H NMR or HPLC, otherwise, continue washing with water to meet this requirement). The combined organic layers were concentrated under reduced pressure to remove about 200-250 ml solvent (A slurry was formed). Heptane (110 ml) was added and the mixture was concentrated to remove about 50-70 ml solvent at reduced pressure. Heptane (110 ml) was added and the mixture was heated to 50° C. for 30 min, and then cooled to room temperature. The mixture was stirred at room temperature for 1 hour and filtered and washed with heptane (30 ml) to afford the desired product (15.5 g, 86%) as a white crystalline solid.

reactant | 2-Bromoacetamide | 80 mmol, 11.1 g | BrCC(=O)N | C2H4BrNO
reactant | Oxalyl chloride | 112 mmol, 9.76 ml, 1.4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butanol | 112 mmol, 10.7 ml, 1.4 eq | C(C)(C)(C)O | C4H10O
reactant | Heptane | 110 ml | CCCCCCC | C7H16
solvent | ethylene dichloride | 130 ml | C(CCl)Cl | C2H4Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
product | (2-bromo-acetyl)-carbamic acid tert-butyl ester | 15.5 g, 86% | C(C)(C)(C)OC(NC(CBr)=O)=O | C7H12BrNO3
